US04968829
To a solution of methyl 4-(1-methylpropoxy)phenoxyacetate (7.94 g, 33.3 mmol) in 65 ml of dry DMF at 0° and with stirring is added methylamine gas to saturation (ca. 25 min.). A trace of sodium methoxide (ca. 10 mg) is added and the mixture is allowed to warm to RT. After 20 hours at RT, the reaction mixture is poured into ice water and 10 ml of 3N sulfuric acid and extracted with ether. The combined organic phases are washed with water, with 10% sodium bicarbonate, with water and with brine, dried, filtered and the filtrate evaporated in vacuo to give 4-(1-methylpropoxy)phenoxy-N-methylacetamide.

reactant | methyl 4-(1-methylpropoxy)phenoxyacetate | 33.3 mmol, 7.94 g | CC(CC)OC1=CC=C(OCC(=O)OC)C=C1 | C13H18O4
reactant | methylamine | CN | CH5N
reactant | sodium methoxide | ca. 10 mg | C[O-].[Na+]
reactant | sulfuric acid | 3N, 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | 4-(1-methylpropoxy)phenoxy-N-methylacetamide | CC(CC)OC1=CC=C(OCC(=O)NC)C=C1 | C13H19NO3
